US08039460B2
Step B: N-{(6S,9R)-6-(2,3-Difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl}-4-(3-methyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
1,1′-Carbonyldiimidazole (24.0 mg, 0.15 mmol) was added to a solution of (6S,9R)-6-(2,3-difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine (28 mg, 0.075 mmol) and in tetrahydrofuran (1.0 mL) at 0° C. After 30 min, additional 1,1′-carbonyldiimidazole (11.0 mg, 0.068 mmol) was added. After 30 min, 3-methyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (26 mg, 0.113 mmol) was added and the mixture was heated to 60° C. After 1 h, additional 3-methyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (23 mg, 0.099 mmol) was added. After 1 h, the reaction mixture was concentrated. Purification by reverse phase HPLC (100% water→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (33 mg). MS 631.2566 (M+1).

reactant | 1,1′-Carbonyldiimidazole | 0.15 mmol, 24.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine | 0.075 mmol, 28 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)C2(CC2)C(F)(F)F)N | C17H17F5N4
reactant | 1,1′-carbonyldiimidazole | 0.068 mmol, 11.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.113 mmol, 26 mg | CN1C(N(C=2C1=NC=CC2)C2CCNCC2)=O | C12H16N4O
reactant | 3-methyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.099 mmol, 23 mg | CN1C(N(C=2C1=NC=CC2)C2CCNCC2)=O | C12H16N4O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | N-{(6S,9R)-6-(2,3-Difluorophenyl)-3-[1-(trifluoromethyl)cyclopropyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl}-4-(3-methyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 33 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)C2(CC2)C(F)(F)F)NC(=O)N2CCC(CC2)N2C(N(C1=NC=CC=C12)C)=O | C30H31F5N8O2
